datasets/RMG-dataset.csv
rxn,Ea
[C:3]([H:4])([H:5])[H:6].[S:0]([H:1])[H:2]>>[H:1].[S:0]([H:2])[C:3]([H:4])([H:5])[H:6],80.7512
[C:0]([C:1]([C:2]1([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])=[C:6]1[H:15])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])[C:4]1([H:13])[C:5]([H:14])=[C:6]2[H:15],80.7512
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([H:9])[H:10])[H:8])[H:7])([H:5])[H:6]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6],190.79
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[H:17]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[C:5]([C:6]([H:14])([H:15])[H:16])([H:13])[H:17])[H:9])([H:7])[H:8],-2.25936
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]=[C:8]([C:9](=[C:10]([H:16])[H:17])[H:15])[C:11](=[C:12]([H:19])[H:20])[H:18])([H:13])[H:14]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7]=[C:6]([H:13])[H:14])([C:9](=[C:10]([H:16])[H:17])[H:15])[C:11](=[C:12]([H:19])[H:20])[H:18])[H:3],52.1745
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[C:21]([c:22]1[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]1[H:34])([H:28])[H:29]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[C:21]([c:22]1[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]1[H:34])([H:28])[H:29])[H:11])([H:9])[H:10],32.0494
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[C:24]([C:25]([C:26]([H:31])([H:32])[H:33])[H:30])([H:27])([H:28])[H:29]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])([H:18])[C:25]([C:24]([H:27])([H:28])[H:29])([C:26]([H:31])([H:32])[H:33])[H:30])[H:14])([H:12])[H:13],9.8324
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[C:16]([C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[C:16]([C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20])[H:9])[H:8])([H:6])[H:7],46.9445
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([C:10]([H:14])([H:15])[H:16])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:11])[H:4].[C:9]([C:10]([H:14])([H:15])[H:16])([H:12])[H:13],72.3832
[N:0](=[O:1])[H:2].[S:3]>>[H:2][S:3].[N:0]=[O:1],0.0
[C:0](=[C:1]([O:2][Si:3]([O:4][H:13])([O:5][C:6]([H:14])([H:15])[H:16])[O:7][C:8]([C:9]([H:19])([H:20])[H:21])([H:17])[H:18])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([O:2][Si:3]([O:4][H:13])([O:5][C:6]([H:14])([H:15])[H:16])[O:7][H:21])[H:12])([H:10])[H:11].[C:8](=[C:9]([H:19])[H:20])([H:17])[H:18],286.821568
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([C:8](=[C:9]([H:21])[H:22])[H:20])[H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11])[H:10]>>[C:0](#[C:1][C:2]([C:3]1([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[C:7]1([C:8](=[C:9]([H:21])[H:22])[H:20])[H:19])[H:11])[H:10],51.5469
[C:0]([S:1]([C:2]([H:7])([H:8])[H:9])=[O:3])([H:4])([H:5])[H:6].[O:10][H:11]>>[C:0]([S:1]([C:2]([H:7])([H:8])[H:9])=[O:3])([H:5])[H:6].[H:4][O:10][H:11],-17.6
[H:3].[O:0]=[S:1][H:2]>>[O:0]=[S:1]([H:2])[H:3],0.2092
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([O:5][O:6][H:17])[H:11])([H:9])[H:10])([H:7])[H:8].[O:18][O:19]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([O:5][O:6][H:17])[H:11])([H:9])[H:10])([H:7])([H:8])[O:18][O:19],0.8313608
[C:0]([H:1])[H:2].[C:3](=[O:4])[H:5]>>[C-:3]#[O+:4].[C:0]([H:1])([H:2])[H:5],0.0
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5](#[C:6][C:7]([C:8]([H:11])([H:12])[H:13])[S:9][H:14])[H:10]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:7]([C:6]#[C:5][H:10])([C:8]([H:11])([H:12])[H:13])[S:9][H:14],106.692
[C:0](=[C:1]([N:2]([H:6])[H:7])[H:5])([H:3])[H:4].[O:8][H:9]>>[C:0](=[C:1]([N:2]([H:6])[H:7])[H:5])[H:4].[H:3][O:8][H:9],-3.59824
[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:11][O:12]>>[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][O:11][O:12],198.74
[C:0](=[C:1]([C:2]([S:3][C:4]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7])([H:5])[H:6].[H:13]>>[C:0](=[C:1]([C:2]([H:8])[H:9])[H:7])([H:5])[H:6].[S:3]([C:4]([H:10])([H:11])[H:12])[H:13],9.2048
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([O:5])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9].[O:6][H:18],192.8978808
